US07132436B2
2,4,6-Trichloro-N-[4-(4-methoxyphenyl)-1,3-thiazol-2-yl]benzenesulfonamide
The title compound was prepared from 4-(4-methoxy-phenyl)-thiazol-2-ylamine and 2,4,6-trichlorobenzenesulfonyl chloride as described in the synthetic MEIHOD B to give a white-yellow solid (58.2 mg) with purity >90%. MS (pos) m/z 449.1, 451.1, 453.1.

reactant | 4-(4-methoxy-phenyl)-thiazol-2-ylamine | COC1=CC=C(C=C1)C=1N=C(SC1)N | C10H10N2OS
reactant | 2,4,6-trichlorobenzenesulfonyl chloride | ClC1=C(C(=CC(=C1)Cl)Cl)S(=O)(=O)Cl | C6H2Cl4O2S
product | 2,4,6-Trichloro-N-[4-(4-methoxyphenyl)-1,3-thiazol-2-yl]benzenesulfonamide | ClC1=C(C(=CC(=C1)Cl)Cl)S(=O)(=O)NC=1SC=C(N1)C1=CC=C(C=C1)OC | C16H11Cl3N2O3S2
